US08445509B2
Production of 1-(2-chloro-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
A mixture of N-(2-chloro-4-fluorophenyl)-2-cyanoacetamide (2.00 g, 9.40 mmol), (3E)-4-methoxybut-3-en-2-one (1.13 g, 11.2 mmol), 1,4-diazabicyclo[2.2.2]octane (1.05 g, 9.40 mmol) and 2-(2-methoxyethoxy)ethanol (20 mL) was stirred at 130° C. for 3 hr. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with 1N hydrochloric acid, water (×2) and saturated brine, dried over anhydrous magnesium sulfate, and filtered through a silica gel pad. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (100 g, ethyl acetate/hexane=2/98→50/50). The obtained residue was washed with ethyl acetate/hexane and collected by filtration to give the title compound (0.75 g, 30%) as a pale-yellow solid.

reactant | N-(2-chloro-4-fluorophenyl)-2-cyanoacetamide | 9.40 mmol, 2.00 g | ClC1=C(C=CC(=C1)F)NC(CC#N)=O | C9H6ClFN2O
reactant | (3E)-4-methoxybut-3-en-2-one | 11.2 mmol, 1.13 g | CO/C=C/C(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 9.40 mmol, 1.05 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 2-(2-methoxyethoxy)ethanol | 20 mL | COCCOCCO | C5H12O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 0.75 g, 30% | ClC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C#N)=O | C13H8ClFN2O
